US07122580B2
3-Biphenyl-4-yl-(2S)-{[4-(4-methoxy-phenyl)-pyridine-2-carbonyl]-amino}-propionic acid
3-Biphenyl-4-yl-(2S)-[(4-chloro-pyridine-2-carbonyl)-amino]-propionic acid methyl ester (80 mg, 0.20 mmol) was reacted with 4-methoxy phenylboronic acid (61 mg, 0.40 mmol) as described in general procedure D to afford the title compound (42 mg, 46%) as a light yellow solid. LC/MS (m/z): 453 (M+1)+.

reactant | 3-Biphenyl-4-yl-(2S)-[(4-chloro-pyridine-2-carbonyl)-amino]-propionic acid methyl ester | 0.20 mmol, 80 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(=O)C1=NC=CC(=C1)Cl)=O | C22H19ClN2O3
reactant | 4-methoxy phenylboronic acid | 0.40 mmol, 61 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
product | 3-Biphenyl-4-yl-(2S)-{[4-(4-methoxy-phenyl)-pyridine-2-carbonyl]-amino}-propionic acid | 42 mg, 46% | C1(=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)C1=NC=CC(=C1)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C28H24N2O4
